US05607947
(i) 3-(2-Hydroxyethyl)-3-(3,4-dichlorophenyl)-1-[(3-isopropoxyphenyl)acetyl]pyrrolidine
Triethylamine (22.5 ml) and 3-(2-hydroxyethyl)-3-(3,4-dichlorophenyl)pyrrolidine (22 grams) are added to a solution of 16 grams of 3-isopropoxyphenylacetic acid in 500 ml of methylene chloride. The mixture is cooled to 0° C. and 42.6 grams of benzotriazolyl-N-oxytrisdimethylaminophosphonium hexafluorophosphate are then added and the reaction mixture is allowed to warm up to room temperature. After thirty minutes, the mixture is concentrated under vacuum and the residue is taken up in diethyl ether and washed successively with water, a dilute sodium hydroxide solution, a saturated sodium chloride solution, a dilute hydrochloric acid solution, a saturated sodium chloride solution, and a solution of sodium bicarbonate. The organic fraction is dried over magnesium sulfate, filtered, and concentrated in vacuo to yield the title intermediate.

reactant | Triethylamine | 22.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2-hydroxyethyl)-3-(3,4-dichlorophenyl)pyrrolidine | 22 grams | OCCC1(CNCC1)C1=CC(=C(C=C1)Cl)Cl | C12H15Cl2NO
reactant | 3-isopropoxyphenylacetic acid | 16 grams | C(C)(C)OC=1C=C(C=CC1)CC(=O)O | C11H14O3
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Hydroxyethyl)-3-(3,4-dichlorophenyl)-1-[(3-isopropoxyphenyl)acetyl]pyrrolidine | OCCC1(CN(CC1)C(CC1=CC(=CC=C1)OC(C)C)=O)C1=CC(=C(C=C1)Cl)Cl | C23H27Cl2NO3
